US05866560
2.7 g of 7α-(6-chlorohexyl)-11β-fluoro-3-hydroxy-estra-1,3,5(10)-trien-17-one is dissolved in 40 ml of ethyl methyl ketone, mixed with 3.0 g of sodium iodide and stirred overnight at a bath temperature of 90° C. For working-up, the reaction mixture is cooled to room temperature, stirred into water, extracted 3 times with ethyl acetate, washed with common salt solution, dried on magnesium sulfate and concentrated by evaporation in a vacuum. 3.4 g of 11β-fluoro-3-hydroxy-7α-(6-iodohexyl)-estra-1,3,5(10)-trien-17-one is obtained as crude product, which is used without further purification in the next stage.

reactant | 7α-(6-chlorohexyl)-11β-fluoro-3-hydroxy-estra-1,3,5(10)-trien-17-one | 2.7 g | ClCCCCCC[C@H]1[C@H]2[C@@H]3CCC([C@@]3(C)C[C@@H]([C@@H]2C=2C=CC(=CC2C1)O)F)=O | C24H32ClFO2
reactant | sodium iodide | 3.0 g | [I-].[Na+]
reactant | water | O | H2O
solvent | ethyl methyl ketone | 40 ml | CC(=O)CC | C4H8O
product | 11β-fluoro-3-hydroxy-7α-(6-iodohexyl)-estra-1,3,5(10)-trien-17-one | 3.4 g | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)CCCCCCI)O | C24H32FIO2
